US04603121
t-butoxycarbonyl-D-norleucylglycine, methyl ester
The title compound was prepared by the general method of Example 1 using 15.0 g (65 mmol) of t-butoxycarbonyl-D-norleucine (Boc-D-Nle) and 8.1 g (65 mmol) of glycine methyl ester hydrochloride. Trituration of the product oil with diethyl ether and (Skellysolve B) produced 18.2 g of the title compound as a pale yellow solid. Structure assignment was supported by elemental analysis.

reactant | t-butoxycarbonyl-D-norleucine | 65 mmol, 15.0 g | C(C)(C)(C)OC(=O)N[C@H](CCCC)C(=O)O | C11H21NO4
reactant | glycine methyl ester hydrochloride | 65 mmol, 8.1 g | Cl.COC(CN)=O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | Skellysolve B | CCCCCC | C6H14
product | t-butoxycarbonyl-D-norleucylglycine, methyl ester | 18.2 g | C(C)(C)(C)OC(=O)N[C@H](CCCC)C(=O)NCC(=O)OC | C14H26N2O5
